US05210206
N-(4-Bromophenylmethyl)-N-propylamine
To 4-bromobenzaldehyde (100 g, 0.54 mol) and n-propylamine (36.3 g, 0.60 mol) in methanol (100 mL) was added 5% platinum on carbon (1.00 g). This mixture was shaken in a Parr hydrogenation reactor overnight to complete formation of the Schiff base. The reaction was then hydrogenated under 4 atmospheres of hydrogen until the theoretical uptake of hydrogen had been consumed. The catalyst was removed by filtration through a 0.45 μ nylon frit and washed with methanol. The filtrate was concentrated under reduced pressure and the residue obtained dissolved in ether (500 mL). The ether solution was washed with water (2×100 mL), 10% sodium bicarbonate solution (2×100 mL), and water (2×100 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure to afford the crude title compound (121.34 g). GC-MS showed this material to be 98.5% pure product containing 1.5% of the desbromo compound; the yield is 96.93% based on the GC purity of the product obtained. A sample of material thus obtained was purified by bulb-to-bulb distillation (bath temperature 130°-150° C., 0.18 torr). 1H NMR (CDCl3, 300 MHz) δ 0.92 (t, J=7.4 Hz, 3H), 1.36 (bs, 1H), 1.53 (tq, J1 =J2 =7.4 Hz, 2H), 2.57 (t, J=7.4Hz, 2H), 3.74 (s, 2H), 7.20 (d, J=9Hz, 2H), 7.44 (d, J=9Hz, 2H). IR (film) 1430, 1060 cm-1. MS (DCI/NH3) m/e 228, 230 (M+H)+. Anal Calcd. for C10H14BrN: C, 52.64H, 6.18; N, 6.14. Found: C, 53.12; H, 6.24; N, 6.18.

reactant | 4-bromobenzaldehyde | 0.54 mol, 100 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | n-propylamine | 0.60 mol, 36.3 g | C(CC)N | C3H9N
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 mL | CO | CH4O
catalyst | platinum on carbon | 1.00 g | [Pt] | Pt
solvent | ether | 500 mL | CCOCC | C4H10O
product | N-(4-Bromophenylmethyl)-N-propylamine | 121.34 g, yield is 96.93% | BrC1=CC=C(C=C1)CNCCC | C10H14BrN
